US07981903B2
To a suspension of 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one HCl salt (0.5 g, 1.04 mmol) in 2,2,2-trifluoroethanol (10 mL) was added N1-[5-amino-2-methyl-4-(methyloxy)phenyl]-N1,N2,N2-trimethylglycinamide (0.275 g, 1.10 mmol). The resulting mixture was let stir at 50° C. for 90 min. Solvents were then removed under reduced pressure to afford a brown residue. Half of this material was dissolved in THF (10 mL) and a 2M solution of methyl amine in THF (2.5 mL, 4.90 mmol) was added. After stirring at rt for 30 min, the reaction was diluted with EtOAc and the organic layer was washed with water and a saturated brine solution and dried over sodium sulfate. Solvents were removed under reduced pressure and the residue purified by chromatography on SiO2. This material was dissolved in dioxane (6 mL) and 2N NaOH (4 mL) was added in a microwave safe vessel. The reaction was heated in a microwave at 120° C. for 15 min. The reaction was diluted with EtOAc and the organic layer was washed with water and a saturated brine solution and dried over sodium sulfate. Solvents were removed under reduced pressure and the residue purified by chromatography on SiO2 to afford 2-[(2-{[5-[(N,N-dimethylglycyl)(methyl)amino]-4-methyl-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide (119 mg, 0.223 mmol) as a beige solid. 1 H NMR (400 MHz, DMSO-d6) δ ppm 2.10 (s, 6 H) 2.12 (s, 3 H) 2.61 (d, J=15.75 Hz, 1 H) 2.77 (d, J=4.58 Hz, 3 H) 2.83 (d, J=15.75 Hz, 1 H) 3.03 (s, 3 H) 3.91 (s, 3 H) 6.34 (dd, J=3.11, 1.83 Hz, 1 H) 6.93-7.05 (m, 3 H) 7.44 (d, J=6.59 Hz, 1 H) 7.52 (s, 1 H) 8.16 (d, J=8.42 Hz, 1 H) 8.27 (s, 1 H) 8.54 (d, J=3.85 Hz, 1 H) 10.06 (s, 1H) 11.44 (br. s., 1H). ESIMS (M+H)+=535.

reactant | 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one HCl salt | 1.04 mmol, 0.5 g | Cl.ClC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C
reactant | N1-[5-amino-2-methyl-4-(methyloxy)phenyl]-N1,N2,N2-trimethylglycinamide | 1.10 mmol, 0.275 g | NC=1C(=CC(=C(C1)N(C(CN(C)C)=O)C)C)OC | C13H21N3O2
reactant | methyl amine | CN | CH5N
solvent | 2,2,2-trifluoroethanol | 10 mL | FC(CO)(F)F | C2H3F3O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 4.90 mmol, 2.5 mL | C1CCOC1 | C4H8O
product | 2-[(2-{[5-[(N,N-dimethylglycyl)(methyl)amino]-4-methyl-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 0.223 mmol, 119 mg | CN(CC(=O)N(C=1C(=CC(=C(C1)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C)C)C | C27H31FN8O3
